data/polar.json
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[C:1]1(=[O:4])[CH:24]=[CH:13][C:19](=[N+:26]([O-:17])[O-:18])[CH:14]=[CH:25]1.[CH3:2][O:3][c:5]1[cH:27][cH:10][c:9]([CH:21]=[C:20]2[CH:22]=[C:6]([Br:15])[C:8](=[O:12])[C:7]([Br:16])=[CH:23]2)[cH:11][cH:28]1>>[c:1]1([O:4][CH:21]([c:9]2[cH:10][cH:27][c:5]([O:3][CH3:2])[cH:28][cH:11]2)[c:20]2[cH:22][c:6]([Br:15])[c:8]([O-:12])[c:7]([Br:16])[cH:23]2)[cH:24][cH:13][c:19]([N+:26](=[O:17])[O-:18])[cH:14][cH:25]1", "epd": [["LP-/Pi+", [17], [26, 17]], ["Pi-/Pi+", [19, 26], [13, 19]], ["Pi-/Pi+", [24, 13], [1, 24]], ["Pi-/Sigma+", [4, 1], [4, 21]], ["Pi-/Pi+", [21, 20], [20, 22]], ["Pi-/Pi+", [22, 6], [6, 8]], ["Pi-/LP+", [8, 12], [12]]]}
{"reaction_name": "Baker–Venkataraman rearrangement", "rsmi": "[C:1]([O:3][c:2]1[c:8]([H:9])[cH:5][cH:7][cH:13][cH:11]1)([CH2:10][C:6]([CH3:4])=[O:12])=[O:14]>>[C:1]([c:8]1[c:2]([O:3][H:9])[cH:11][cH:13][cH:7][cH:5]1)([CH2:10][C:6]([CH3:4])=[O:12])=[O:14]", "epd": [["Sigma-/Sigma+", [8, 9], [1, 8]], ["Pi-/LP+", [1, 14], [14]], ["LP-/Pi+", [14], [1, 14]], ["Sigma-/LP+", [1, 3], [3]], ["LP-/Sigma+", [3], [3, 9]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[N:2]1([c:6]2[c:28]([CH3:8])[cH:22][c:17]([CH3:13])[cH:25][c:31]2[CH3:11])[CH:21]=[CH:20][N:3]([c:7]2[c:29]([CH3:9])[cH:23][c:18]([CH3:14])[cH:24][c:30]2[CH3:10])[C:32]1=[CH2:19].[cH:1]1[cH:4][cH:26][c:16]([N+:12](=[CH2:15])[CH3:33])[cH:27][cH:5]1>>[cH:1]1[cH:4][cH:26][c:16]([N:12]([CH2:15][CH2:19][c:32]2[n+:2](-[c:6]3[c:28]([CH3:8])[cH:22][c:17]([CH3:13])[cH:25][c:31]3[CH3:11])[cH:21][cH:20][n:3]2-[c:7]2[c:29]([CH3:9])[cH:23][c:18]([CH3:14])[cH:24][c:30]2[CH3:10])[CH3:33])[cH:27][cH:5]1", "epd": [["LP-/Pi+", [2], [32, 2]], ["Pi-/Sigma+", [19, 32], [19, 15]], ["Pi-/LP+", [15, 12], [12]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:3]1([Cl:8])([Cl:9])[CH:17]=[C:21]([Cl:22])[c:23]2[cH:4][cH:11][cH:20][n:7][c:16]2[C:19]1=[O:15].[O-:1][C:18](=[CH:2][c:10]1[cH:13][cH:5][cH:25][cH:6][cH:14]1)[O:24][CH2:26][CH3:12]>>[O:1]=[C:18]([CH:2]([Cl:8])[c:10]1[cH:13][cH:5][cH:25][cH:6][cH:14]1)[O:24][CH2:26][CH3:12].[c:3]1([Cl:9])[cH:17][c:21]([Cl:22])[c:23]2[cH:4][cH:11][cH:20][n:7][c:16]2[c:19]1[O-:15]", "epd": [["LP-/Pi+", [1], [18, 1]], ["Pi-/Sigma+", [2, 18], [2, 8]], ["Sigma-/Pi+", [8, 3], [3, 19]], ["Pi-/LP+", [19, 15], [15]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[cH:1]1[cH:8][cH:2][c:4]2[c:11]([o+:5][c:7](-[c:26]3[cH:20][cH:15][cH:28][cH:16][cH:21]3)[cH:6][cH:25]2)[cH:33]1.[cH:3]1[cH:17][cH:9][c:24]([C:19](=[C:12]2[N:13]([CH3:30])[C:22]([CH3:29])=[C:32]([CH3:31])[S:23]2)[O:27][CH3:14])[cH:10][cH:18]1>>[cH:1]1[cH:8][cH:2][c:4]2[c:11]([cH:33]1)[O:5][C:7]([c:26]1[cH:20][cH:15][cH:28][cH:16][cH:21]1)=[CH:6][CH:25]2[C:19]([c:12]1[n+:13]([CH3:30])[c:22]([CH3:29])[c:32]([CH3:31])[s:23]1)([c:24]1[cH:9][cH:17][cH:3][cH:18][cH:10]1)[O:27][CH3:14]", "epd": [["LP-/Pi+", [13], [12, 13]], ["Pi-/Sigma+", [19, 12], [19, 25]], ["Pi-/Pi+", [25, 6], [6, 7]], ["Pi-/LP+", [7, 5], [5]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[N:1]1([CH3:6])[C:4](=[C:16]([c:3]2[cH:13][cH:18][cH:7][cH:19][cH:14]2)[O:33][CH3:15])[S:8][c:20]2[cH:2][cH:5][cH:32][cH:17][c:21]21.[cH:9]1[c:22]([CH+:36][c:23]2[cH:10][c:26]([F:30])[cH:35][c:27]([F:31])[cH:11]2)[cH:12][c:24]([F:28])[cH:34][c:25]1[F:29]>>[n+:1]1([CH3:6])[c:4]([C:16]([c:3]2[cH:13][cH:18][cH:7][cH:19][cH:14]2)([O:33][CH3:15])[CH:36]([c:22]2[cH:9][c:25]([F:29])[cH:34][c:24]([F:28])[cH:12]2)[c:23]2[cH:10][c:26]([F:30])[cH:35][c:27]([F:31])[cH:11]2)[s:8][c:20]2[cH:2][cH:5][cH:32][cH:17][c:21]12", "epd": [["LP-/Pi+", [1], [4, 1]], ["Pi-/Sigma+", [16, 4], [16, 36]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH:8]([CH3:2])[N+:20]1=[N:26][N:19]([CH:3]([CH3:27])[CH3:28])[C:29](=[CH2:18])[C-:4]1[C:5]([CH3:30])([CH3:31])[CH3:32].[S:6]([c:10]1[cH:22][cH:14][cH:12][cH:17][cH:25]1)([C:21]([S:7]([c:11]1[cH:23][cH:15][cH:13][cH:16][cH:24]1)(=[O:33])=[O:34])=[CH2:9])(=[O:35])=[O:36]>>[CH3:1][CH:8]([CH3:2])[n+:20]1[c:4]([C:5]([CH3:30])([CH3:31])[CH3:32])[c:29]([CH2:18][CH2:9][C-:21]([S:6]([c:10]2[cH:22][cH:14][cH:12][cH:17][cH:25]2)(=[O:35])=[O:36])[S:7]([c:11]2[cH:23][cH:15][cH:13][cH:16][cH:24]2)(=[O:33])=[O:34])[n:19]([CH:3]([CH3:27])[CH3:28])[n:26]1", "epd": [["LP-/Pi+", [4], [29, 4]], ["Pi-/Sigma+", [18, 29], [18, 9]], ["Pi-/LP+", [9, 21], [21]]]}
{"reaction_name": "Phosphine/tetrahalomethane alcohol activation", "rsmi": "[Br:1][C:10]([Br:2])([Br:3])[Br:4].[CH3:5][P:11]([CH3:6])[CH3:7].[CH3:8][CH2:13][O:9][H:12]>>[Br:1][CH2:13][CH3:8].[Br:2][C:10]([Br:3])([Br:4])[H:12].[CH3:5][P:11]([CH3:6])([CH3:7])=[O:9]", "epd": [["LP-/Sigma+", [1], [1, 13]], ["Sigma-/LP+", [9, 13], [9]], ["LP-/Sigma+", [9], [9, 11]], ["Sigma-/LP+", [1, 10], [1]], ["LP-/Pi+", [11], [9, 11]], ["Sigma-/Sigma+", [9, 12], [10, 12]]]}
